US09029536B2
C) 1-(1-Methylethyl)-3-{5-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]pyridin-2-yl}-1H-pyrazolo[4,3-b]pyridine
To a mixture of 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (174 mg) and 6-[(1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]pyridin-3-ol (140 mg) in DMF (1.5 ml) was added NaH (60% in oil, 35.2 mg), and the mixture was stirred at 100° C. for 1 h. The mixture was heated at 180° C. for 30 min under microwave irradiation. The mixture was poured into water and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (AcOEt/hexane) and silica gel column chromatography (AcOEt/hexane). The eluent was evaporated and the residue was purified by preparative HPLC (C18, eluent: H2O/CH3CN (10 mM NH4HCO3)). The eluent was evaporated to give the title compound (68.1 mg).

reactant | 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 174 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | (1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]pyridin-3-ol | 140 mg | CC(C)N1N=C(C2=NC=CC=C21)C2=NC=CC=C2O | C14H14N4O
reactant | NaH | 35.2 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 1-(1-Methylethyl)-3-{5-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]pyridin-2-yl}-1H-pyrazolo[4,3-b]pyridine | 68.1 mg | CC(C)N1N=C(C2=NC=CC=C21)C2=NC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C | C21H19N7O
